US04272449
Following the method of Example 1, 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropaneamide, from 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylic acid, oxalyl chloride and ammonia, is reacted with 3-phenoxybenzyl bromide to give 3-phenoxybenzyl 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanimidate.

reactant | 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropaneamide | ClC(=CC1C(C1C(=O)N)(C)C)Cl | C8H11Cl2NO
reactant | 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylic acid | ClC(=CC1C(C1C(=O)O)(C)C)Cl | C8H10Cl2O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
reactant | 3-phenoxybenzyl bromide | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
product | 3-phenoxybenzyl 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanimidate | ClC(=CC1C(C1C(OCC1=CC(=CC=C1)OC1=CC=CC=C1)=N)(C)C)Cl | C21H21Cl2NO2
